US06066641
e) 6-Amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-isobutyrylamino-uracil
4.32 g of 6-amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-nitroso-uracil, 2.00 g of sodium bicarbonate and 2.98 ml of isobutyric anhydride in 80 ml of DMF were hydrogenated with 1.68 g of neutral Raney-nickel at room temperature. After 9 hours the mixture was heated for 15 minutes to 60° C. The nickel was filtered off, the filtrate evaporated to dryness and the residue suspended in 100 ml of water. At pH 8 the solid was collected to give the crude title compound (4.64 g) as a white solid.

reactant | 6-amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-nitroso-uracil | 4.32 g | NC1=C(C(NC(N1CC1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O)N=O | C17H20N4O5
reactant | sodium bicarbonate | 2.00 g | C([O-])(O)=O.[Na+]
reactant | isobutyric anhydride | 2.98 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | Raney-nickel | 1.68 g | [Ni] | Ni
product | 6-Amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-isobutyrylamino-uracil | 4.64 g | NC1=C(C(NC(N1CC1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O)NC(C(C)C)=O | C21H28N4O5
